US05334716
To a solution of (4E)-5-(2-pyridyl)-4-pentenoic acid (1.6 g) in ethanol (50 ml) was added d-camphor-10-sulfonic acid (2.3 g), and the mixture was heated under reflux with a reflux condenser containing 3 Å molecular sieves. After 2 hours, the mixture was evaporated, diluted with saturated aqueous sodium bicarbonate and then extracted with ethyl acetate. The organic layers were washed with brine, dried over sodium sulfate and evaporated in vacuo to give ethyl (4E)-5-(2-pyridyl)-4-pentenoate (1.84 g).

reactant | (4E)-5-(2-pyridyl)-4-pentenoic acid | 1.6 g | N1=C(C=CC=C1)/C=C/CCC(=O)O | C10H11NO2
reactant | d-camphor-10-sulfonic acid | 2.3 g | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl (4E)-5-(2-pyridyl)-4-pentenoate | 1.84 g | N1=C(C=CC=C1)/C=C/CCC(=O)OCC | C12H15NO2
